US05633392
Synthesis of Estra-1,3,5(10),7-tetraen-3-ol (10)
To a suspension of equilin (100.2 mg, 0.3733 mmol) in 2 mL of diethylene glycol were added hydrazine (59 μL, 1.9 mmol) and potassium hydroxide (0.04 g, 0.7 mmol). The mixture was stirred in an oil bath at 200°-214° C. for 2 h, after which the cooled reaction was diluted with 10 mL of water, neutralized with 1N HCl, and extracted three times with 25 mL of ether. The combined organic extracts were washed with 10 mL of brine, dried over magnesium sulfate, filtered, concentrated, and purified by preparative TLC (silica gel, 15% ethyl acetate/hexane eluent) to give a yellow resin. Product was further purified by decolorizing with charcoal and recrystallization from aqueous ethanol to give tan crystals (13.2 mg, 51.9 μM, 14%), m.p. 130°-134° C.

reactant | equilin | 0.3733 mmol, 100.2 mg | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC=C3[C@@H]1CCC2=O)O | C18H20O2
reactant | hydrazine | 1.9 mmol, 59 μL | NN | H4N2
reactant | potassium hydroxide | 0.7 mmol, 0.04 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | diethylene glycol | 2 mL | C(COCCO)O | C4H10O3
solvent | water | 10 mL | O | H2O
product | Estra-1,3,5(10),7-tetraen-3-ol | 51.9 μM, 13.2 mg, 14% | C[C@@]12CCC[C@H]1C1=CCC=3C=C(C=CC3[C@H]1CC2)O | C18H22O
